US05922737
Synthesis of (1-(2-(2,2,2-trifluoroethoxy)ethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine
Prepare by the method of Preparation 14 using 2-methanesulfonyloxyethyl 2,2,2-trifluoroethyl ether and (1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine to give the title compound.

reactant | 2-methanesulfonyloxyethyl 2,2,2-trifluoroethyl ether | FC(COCCOS(=O)(=O)C)(F)F | C5H9F3O4S
reactant | (1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine | N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C15H20N4O2
product | (1-(2-(2,2,2-trifluoroethoxy)ethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | FC(COCCN1C(=NC2=C1C=CC=C2)NC2CCNCC2)(F)F | C16H21F3N4O
